* C:\Users\carlo\OneDrive\Escritorio\ASSD\TPs\TP1\Filtros\Simulaciones\Filtro_V4.asc
XU1 N006 Stage_1 Vcc+ Vcc- Stage_1 TL082
R1 N001 Vin {R1_S1}
C2_S1 N006 0 {C2_S1}
R2 N006 N001 {R2_S1}
V1 Vcc+ 0 5
V2 0 Vcc- 5
V3 Vin 0 PWL file=C:\Users\carlo\OneDrive\Escritorio\ASSD\TPs\TP1\diente_sierra.txt
XU2 N005 Stage_2 Vcc+ Vcc- Stage_2 TL082
R3 N002 Stage_1 {R1_S2}
C2_S2 N005 0 {C2_S2}
R4 N005 N002 {R2_S2}
XU3 N004 Vout Vcc+ Vcc- Vout TL082
R5 N003 Stage_2 {R1_S3}
C2_S3 N004 0 {C2_S3}
R6 N004 N003 {R2_S3}
C1_S1 Stage_1 N001 {C1_S1}
C1_S2 Stage_2 N002 {C1_S2}
C1_S3 Vout N003 {C1_S3}
.param R1_S1 75k
.param R2_S1 33k
.param C2_S1 100p
.param C1_S1 68p
.param R1_S2 15k
.param R2_S2 4.7k
.param C1_S2 0.001u
.param C2_S2 220p
.param R1_S3 39k
.param R2_S3 12k
.param C1_S3 0.001u
.param C2_S3 33p
.tran 1m
.lib TL082.cir
.backanno
.end
